US03962445
a. 4-Hydroxy-1-phenyl carbostyril
A solution of N-phenyl anthranilic acid (30.1g.; 0.146 mole) and acetic anhydride (74 ml.) in glacial acetic acid (74 ml.) was refluxed for 4 hrs. The resulting red solution was cooled, poured onto crushed ice-water (600 ml) and brought to pH 9 with dilute sodium hydroxide solution. After filtration the clear liquid was taken to pH 5 with hydrochloric acid and the white solid filtered off and dried, m.p. (AcOH) 298°-300°C. (Found: C, 75.40; H, 4.58; N, 5.70; C15H11NO2 requires; C, 75.94; H, 4.67; N, 5.90%).

reactant | N-phenyl anthranilic acid | 0.146 mole, 30.1g | C1(=CC=CC=C1)NC=1C(C(=O)O)=CC=CC1 | C13H11NO2
reactant | acetic anhydride | 74 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 74 ml | C(C)(=O)O | C2H4O2
product | 4-Hydroxy-1-phenyl carbostyril | OC1=CC(N(C2=CC=CC=C12)C1=CC=CC=C1)=O | C15H11NO2
